US03953496
By the procedure similar to that described in Example 21, n-butyl 2-(2'-acetoxybenzamido)-4-aminobenzoate and 2'-acetoxybenzoylchloride were reacted and treated to obtain a sticky mass. The mass was dissolved in diethyl ether and a physical stimulus was given to the solution to obtain crystals which precipitated. Recrystallization from ethanol gave n-butyl 2,4-bis(2'-acetoxybenzamido)-benzoate having a melting point between 149° - 152°C.

reactant | n-butyl 2-(2'-acetoxybenzamido)-4-aminobenzoate | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OCCCC)C=CC(=C2)N)C=CC=C1 | C20H22N2O5
solvent | diethyl ether | C(C)OCC | C4H10O
product | n-butyl 2,4-bis(2'-acetoxybenzamido)-benzoate | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OCCCC)C=CC(=C2)NC(C2=C(C=CC=C2)OC(C)=O)=O)C=CC=C1 | C29H28N2O8
